US07405305B2
c) Benzyl-(2,3-dihydro-1H-indol-7-ylmethyl)carbamic acid tert-butyl ester
Add sodium cyanoborohydride (3.0 g, 47.6 mmol) to a solution of benzyl-(1H-indol-7-ylmethyl)carbamic acid tert-butyl ester (10.0 g, 29.8 mmol) in acetic acid. Stir the mixture at ambient temperature for 3 hours. Dilute with ethyl acetate and cool in an ice bath. Wash the mixture with aqueous 3.0 N sodium hydroxide until pH is 8. Dry the organic layer with magnesium sulfate and concentrate. Purify by chromatography (silica gel; hexane/ethyl acetate; 3:1 to 0:1) to afford a solid as the title compound (5.0 g, 50%). MS (ESI) m/z 339 (M+H)+.

reactant | sodium cyanoborohydride | 47.6 mmol, 3.0 g | C(#N)[BH3-].[Na+]
reactant | benzyl-(1H-indol-7-ylmethyl)carbamic acid tert-butyl ester | 29.8 mmol, 10.0 g | C(C)(C)(C)OC(N(CC=1C=CC=C2C=CNC12)CC1=CC=CC=C1)=O | C21H24N2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl-(2,3-dihydro-1H-indol-7-ylmethyl)carbamic acid tert-butyl ester | 5.0 g, 50% | C(C)(C)(C)OC(N(CC=1C=CC=C2CCNC12)CC1=CC=CC=C1)=O | C21H26N2O2
